US07589232B2
Step f) Formation of methyl (2E)-3-[4-(aminomethyl)pentyl]acrylate, hydrochloride salt
To a mixture of 4-(N-Boc-aminomethyl) cinnamic acid (5 g, 0.018 mol) in methanol (200 mL) was added thionylchloride (11 g) at 0° C. and slowly heated to reflux for 3 h. The reaction mixture was concentrated to give solid product. The solid hydrochloride salt was washed with EtOAc and filtered off to give the title compound (3.5 g, 86%).

reactant | 4-(N-Boc-aminomethyl) cinnamic acid | 0.018 mol, 5 g | C(=O)(OC(C)(C)C)NCC1=CC=C(C=CC(=O)O)C=C1 | C15H19NO4
reactant | thionylchloride | 11 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 200 mL | CO | CH4O
product | methyl (2E)-3-[4-(aminomethyl)pentyl]acrylate, hydrochloride salt | 3.5 g, 86% | Cl.NCC(CCC/C=C/C(=O)OC)C | InChI=1S/C10H19NO2.ClH/c1-9(8-11)6-4-3-5-7-10(12)13-2;/h5,7,9H,3-4,6,8,11H2,1-2H3;1H/b7-5+;
